US07173030B2
3-Ethyl-5-amino-1,2,4-thiadiazole, 1.1 eq NBS and a small amount of AIBN were dissolved in CCl4 and refluxed at 80° C. over-night. Standard work up followed by purification on silica gel with DCM as mobile phase gave the 3-(1-bromoethyl)-5-amino-1,2,4-thiadiazole. Subsequently, 0.9 eq of NaI were dissolved in dry acetone and 3-(1-bromoethyl)-5-amino-1,2,4-thiadiazole. 1 eq of Na2CO3 and 1 eq of 3-fluorothiophenol were then added and the reaction was stirred at room temperature over-night. The reaction was quenched with water and worked up and purified using standard procedures.

reactant | 3-Ethyl-5-amino-1,2,4-thiadiazole | C(C)C1=NSC(=N1)N | C4H7N3S
reactant | NBS | 1.1 eq | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-(1-bromoethyl)-5-amino-1,2,4-thiadiazole | BrC(C)C1=NSC(=N1)N | C4H6BrN3S
